US07863310B2
Combine 1-benzyl-2-methyl-4-(3-(N-[3-methylbut-2-yl]-N-[cyano]amino)-4-nitrophenyl)-5-(2,4-difluorophenyl)-1H-imidazole-(0.122 g, 0.24 mmol), 10% palladium on carbon (90 mg), and 1,4-cyclohexadiene (2 mL) in absolute ethanol (10 mL) and heat to 95° C. in a sealed vessel for 18 hours. Cool to room temperature, filter through celite, and concentrate the filtrate under reduced pressure. Subject the residue to silica gel chromatography, eluting with dichloromethane/methano/ammonia mixtures to give 0.077 g (0.195 mmol) of 1-(3-methylbut-2-yl)-2-amino-6-(2-methyl-4-(2,4-difluorophenyl)-1H-imidazol-5-yl)-1H-benzimidazole. Dissolve in 10% methanol/dichloromethane, add 1.0 equivalent methanesulfonic acid, remove solvent under a stream of nitrogen and finally under high vacuum to give 0.094 g of the title compound.

reactant | 1-benzyl-2-methyl-4-(3-(N-[3-methylbut-2-yl]-N-[cyano]amino)-4-nitrophenyl)-5-(2,4-difluorophenyl)-1H-imidazole- | 0.24 mmol, 0.122 g | C(C1=CC=CC=C1)N1C(=NC(=C1C1=C(C=C(C=C1)F)F)C1=CC(=C(C=C1)[N+](=O)[O-])N(C#N)C(C)C(C)C)C | C29H27F2N5O2
reactant | 1,4-cyclohexadiene | 2 mL | C1=CCC=CC1 | C6H8
reactant | ethanol | 10 mL | C(C)O | C2H6O
catalyst | palladium on carbon | 90 mg | [Pd] | Pd
product | 1-(3-methylbut-2-yl)-2-amino-6-(2-methyl-4-(2,4-difluorophenyl)-1H-imidazol-5-yl)-1H-benzimidazole | 0.195 mmol, 0.077 g | CC(C(C)N1C(=NC2=C1C=C(C=C2)C2=C(N=C(N2)C)C2=C(C=C(C=C2)F)F)N)C | C22H23F2N5
